US07087601B2
To a stirred solution of 5-chlorobenzoxazole (200 mg, 1.3 mmol) in 5 mL THF at −78° C., was added n-Butyllithium (640 μL, 2.5M in hexane, 1.6 mmol). The reaction was stirred for 15 min at −78° C. followed by the addition of ZnCl2 (3.9 mL, 1M in Et2O, 3.9 mmol) via a syringe. The reaction was then warmed at 0° C. for 1 h. A solution of 4-bromo-2-fluoro benzyl cyanide (214 mg, 1.0 mmol) in THF (2 mL) was added, along with Pd0 (a fresh suspension prepared as follows: 200 μL, n-Butyllithium, 2.5M in hexanes added to 144 mg of PdCl2(PPh3)2 in 5 mL of THF). The reaction was then stirred at reflux overnight and quenched with sat. NaHCO3 (50 mL). After diluting the mixture with EtOAc (300 mL), the organic extract was washed with H2O (50 mL), dried (MgSO4), filtered and concentrated in vacuo. The residue was purified by flash chromatography (silica gel, hexanes:EtOAc 5:1) to afford the desired [4-(5-chloro-1,3-benzoxazol-2-yl)-2-fluorophenyl]acetonitrile as yellow solid. 1H NMR (CD3OD, 300 Hz), δ8.10(d, 1H), 7.99 (d, 1H), 7.79 (d, 1H), 7.68 (t, 1H), 7.52 (d, 1H), 7.39 (q, 1H), 3.90 (s, 1H). MS (ESI) 287 (M+H)+.

reactant | 5-chlorobenzoxazole | 1.3 mmol, 200 mg | ClC=1C=CC2=C(N=CO2)C1 | C7H4ClNO
reactant | n-Butyllithium | 1.6 mmol, 2.5M, 640 μL | C(CCC)[Li]
reactant | 4-bromo-2-fluoro benzyl cyanide | 1.0 mmol, 214 mg | BrC1=CC(=C(CC#N)C=C1)F | C8H5BrFN
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
catalyst | ZnCl2 | 3.9 mmol, 1M, 3.9 mL | [Cl-].[Cl-].[Zn+2]
catalyst | PdCl2(PPh3)2 | 144 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | [4-(5-chloro-1,3-benzoxazol-2-yl)-2-fluorophenyl]acetonitrile | ClC=1C=CC2=C(N=C(O2)C2=CC(=C(C=C2)CC#N)F)C1 | C15H8ClFN2O
